US07348354B2
The more polar diastereoisomer of (4-aminomethyl-1-phenyl-cyclohexyl)-dimethylamine (162.7 mg, 0.7 mmole) was added to a solution of [2-(1H-indol-3-yl)-1-methyl-ethyl]-carbamic acid phenyl ester (206 mg, 0.7 mmole) in dioxane (7 ml). The batch was then refluxed for 14 h. A precipitate formed at RT. The precipitate was filtered out, and washed once with cold dioxane (2 ml) and with diethyl ether (3×3 ml). The more polar diastereoisomer of 1-(4-dimethylamino-4-phenyl-cyclohexylmethyl)-3-[2-(1H-indol-3-yl)-1-methyl-ethyl]-urea was obtained in this manner as a colorless solid with a melting point of 140-146° C. in a yield of 231 mg (76%).

reactant | (4-aminomethyl-1-phenyl-cyclohexyl)-dimethylamine | 0.7 mmole, 162.7 mg | NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C15H24N2
reactant | [2-(1H-indol-3-yl)-1-methyl-ethyl]-carbamic acid phenyl ester | 0.7 mmole, 206 mg | C1(=CC=CC=C1)OC(NC(CC1=CNC2=CC=CC=C12)C)=O | C18H18N2O2
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | 1-(4-dimethylamino-4-phenyl-cyclohexylmethyl)-3-[2-(1H-indol-3-yl)-1-methyl-ethyl]-urea | CN(C1(CCC(CC1)CNC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC=CC=C1)C | C27H36N4O
